US07776897B2
1-(1-Benzylpiperidin-4-yl)cyclopentane-1-carbohydrazide (573 mg) and 8-methoxy-2,3,4,5,6,7-hexahydroazocine (671 mg) were stirred in toluene (10 ml) at 110° C. for 21 hours. The reaction solution was subjected to evaporation under reduced pressure and the resulting crude product was purified by column chromatography (chloroform:methanol=97:3). The resulting solid washed with hexane to obtain 255 mg of 3-[1-(1-benzyl-4-piperidinyl)cyclopentyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine (white solid).

reactant | 1-(1-Benzylpiperidin-4-yl)cyclopentane-1-carbohydrazide | 573 mg | C(C1=CC=CC=C1)N1CCC(CC1)C1(CCCC1)C(=O)NN | C18H27N3O
reactant | 8-methoxy-2,3,4,5,6,7-hexahydroazocine | 671 mg | COC=1CCCCCCN1 | C8H15NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[1-(1-benzyl-4-piperidinyl)cyclopentyl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine | 255 mg | C(C1=CC=CC=C1)N1CCC(CC1)C1(CCCC1)C1=NN=C2N1CCCCCC2 | C25H36N4
